US06624158B2
5-[(3aR,4R,6R,6aR)-6-Methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-4-benzyl-2,4-dihydro-3H-1,2,4-triazole-3-thione
A solution of 2-{[(3aS,4S,6R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]carbonyl}-N-benzylhydrazinecarbothioamide (Preparation 17) (5.9 g, 15.5 mmol) in 2 M aqueous sodium hydroxide (200 ml) was heated under reflux for 2 hours. The solution was allowed to cool to room temperature and extracted with dichloromethane (50 ml). The aqueous phase was then acidified to pH 4 with 2 M aqueous hydrochloric acid and extracted with ethyl acetate (300 ml). The ethyl acetate layer was dried (anhydrous magnesium sulphate) and evaporated under reduced pressure to give the title compound (2.20 g).

reactant | 2-{[(3aS,4S,6R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]carbonyl}-N-benzylhydrazinecarbothioamide | 15.5 mmol, 5.9 g | CO[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)NNC(NCC2=CC=CC=C2)=S | C17H23N3O5S
solvent | sodium hydroxide | 2 M, 200 ml | [OH-].[Na+]
product | 5-[(3aR,4R,6R,6aR)-6-Methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-4-benzyl-2,4-dihydro-3H-1,2,4-triazole-3-thione | 2.20 g | CO[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C=2N(C(NN2)=S)CC2=CC=CC=C2 | C17H21N3O4S
